US07259160B2
Methyl N-[(benzyloxy)carbonyl]-N-{3-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-D-alaninate (1.6 g, 3.9 mmol) was treated with 4N hydrogen chloride in dioxane (10 mL) at room temperature for 2 hr. The solvent was removed under a stream of nitrogen, and the crude product was purified by flash chromatography on a Biotage® system (silica, 7% pre-mixed 2N ammonia/methanol in dichloromethane) to yield methyl N-(3-amino-2-methylpropyl)-N-[(benzyloxy)carbonyl]-D-alaninate as colorless viscous oil. MS (M+1): 309.4

reactant | Methyl N-[(benzyloxy)carbonyl]-N-{3-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-D-alaninate | 3.9 mmol, 1.6 g | C(C1=CC=CC=C1)OC(=O)N([C@H](C)C(=O)OC)CC(CNC(=O)OC(C)(C)C)C | C21H32N2O6
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | methyl N-(3-amino-2-methylpropyl)-N-[(benzyloxy)carbonyl]-D-alaninate | NCC(CN([C@H](C)C(=O)OC)C(=O)OCC1=CC=CC=C1)C | C16H24N2O4
